US09212172B2
European Patent Application No. 0802183 describes a synthesis of bazedoxifene 5-Benzyloxy-2(4-benzyloxyphenyl)-1-[4-(2-bromoethoxy)benzyl]-3-methyl-indole is reacted with azepan, under suitable reaction conditions, followed by deprotection to yield bazedoxifene, which on subsequent treatment with acetone and acetic acid gives bazedoxifene acetate.

reactant | bazedoxifene 5-Benzyloxy-2(4-benzyloxyphenyl)-1-[4-(2-bromoethoxy)benzyl]-3-methyl-indole | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O.C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)OCCBr)C1=CC=C(C=C1)OCC1=CC=CC=C1)C
reactant | azepan | N1CCCCCC1 | C6H13N
reactant | acetone | CC(=O)C | C3H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | bazedoxifene | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
